US04918058
10.0 g (12.1 mmol) of leucomycin A3, also known as josamycin, are dissolved in 30 ml of DMSO and 15 ml of triethylamine. To the solution thereby obtained, 5.6 g of sulfur trioxide/pyridine complex (36.3 mmol), dissolved in 40 ml of DMSO, are added at room temperature and under a nitrogen atmosphere. The reaction medium is stirred at room temperature for 3 hours. Approximately 200 g of ice are added and the mixture is filtered: the product thereby obtained is taken up with methylene chloride and the organic phase is washed three times with water; the organic phase is dried over sodium sulfate, filtered and evaporated to dryness. The residue thereby obtained is purified by flash chromatography on a silica column; eluant: CH2Cl2 /MeOH/NH4OH (300:5:0.25). 3.6 g of carbomycin B are obtained.

reactant | leucomycin A3 | 12.1 mmol, 10.0 g | C[C@@H]1C/C=C/C=C/[C@@H]([C@@H](C[C@@H]([C@@H]([C@H]([C@@H](CC(=O)O1)OC(=O)C)OC)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C)O[C@H]3C[C@@]([C@H]([C@@H](O3)C)OC(=O)CC(C)C)(C)O)N(C)C)O)CC=O)C)O | C42H69NO15
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | carbomycin B | 3.6 g, Yield: 36.4% | C[C@@H]1C/C=C/C=C/C(=O)[C@@H](C[C@@H]([C@@H]([C@H]([C@@H](CC(=O)O1)OC(=O)C)OC)OC2C(C(C(C(O2)C)OC3CC(C(C(O3)C)OC(=O)CC(C)C)(C)O)N(C)C)O)CC=O)C | C42H67NO15
